US03959322
Diethyl 2-(6-m-methoxyphenyl-3-oxohexyl)-2-methyl-3-oxoadipate
Stir a mixture of diethyl 2-methyl-3-oxoadipate (2.3 g, b.p. 111°-112°C/0.2 mm), prepared from 2- methylacetoacetic ester and ethoxycarbonylpropionyl chloride by the method of Cardwell, J. Chem. Soc., 1949, 715, and the methiodide of 1-diethylamino-6-m-methoxyphenylhexan-3-one (4.6 g) in benzene (20 cc) in an ice bath and add a solution of potassium (0.4 g) in ethanol (10 cc) dropwise over one hour. After stirring for a further 4 hours add ether (50 cc) and evaporate the washed and dried ether extracts. Heat the residue at 160°C and 0.2 mm pressure to remove unchanged starting materials. The residual gum is diethyl 2-(6-m-methoxyphenyl-3-oxohexyl)-2-methyl-3-oxoadipate (2.7 g); infrared absorption peaks at 5.78, 5.88, 6.25, 12.82, 14.49 μ.

reactant | diethyl 2-methyl-3-oxoadipate | 2.3 g | CC(C(=O)OCC)C(CCC(=O)OCC)=O | C11H18O5
reactant | ethoxycarbonylpropionyl chloride | C(C)OC(=O)CCC(=O)Cl | C6H9ClO3
reactant | 1-diethylamino-6-m-methoxyphenylhexan-3-one | 4.6 g | C(C)N(CCC(CCCC1=CC(=CC=C1)OC)=O)CC | C17H27NO2
reactant | potassium | 0.4 g | [K] | K
solvent | benzene | 20 cc | C1=CC=CC=C1 | C6H6
solvent | ethanol | 10 cc | C(C)O | C2H6O
solvent | ether | 50 cc | CCOCC | C4H10O
product | Diethyl 2-(6-m-methoxyphenyl-3-oxohexyl)-2-methyl-3-oxoadipate | COC=1C=C(C=CC1)CCCC(CCC(C(=O)OCC)(C(CCC(=O)OCC)=O)C)=O | C24H34O7
